US06169091A
4-Chloro-6-(N,N-dimethylamino)-pyrido[3,4-d]pyrimidine
6-(N,N-Dimethylamino)-3H-pyrido[3,4-d]pyrimidin-4-one (1.0 g, 5.25 mmol) was heated at reflux with phosphorous oxychloride (8.5 ml) and triethylamine (5.3 ml) for 3 hours. The mixture was concentrated in vacuo, azeotroping with toluene twice. The residue was partitioned between ethyl acetate and aqueous sodium hydrogen carbonate (8%), the layers separated, and the aqueous extracted once more with ethyl acetate. The combined organics were washed with water and brine, dried (sodium sulphate), and concentrated in vacuo. The residue was triturated with hexane to give the product as a solid (0.36 g, 33%).

reactant | 6-(N,N-Dimethylamino)-3H-pyrido[3,4-d]pyrimidin-4-one | 5.25 mmol, 1.0 g | CN(C)C1=CC2=C(N=CNC2=O)C=N1 | C9H10N4O
reactant | phosphorous oxychloride | 8.5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | triethylamine | 5.3 ml | C(C)N(CC)CC | C6H15N
product | 4-Chloro-6-(N,N-dimethylamino)-pyrido[3,4-d]pyrimidine | 0.36 g, 33% | ClC=1C2=C(N=CN1)C=NC(=C2)N(C)C | C9H9ClN4
